US07846959B2
A solution of N-(2-chloro-4,5-difluorophenyl)acetamide (4.69 g, 22.8 mmol) in acetic acid (4.5 mL) and concentrated sulfuric acid (15 ml) was cooled to 0° C. To the solution was added a mixture of fuming nitric acid (2 mL) and acetic acid (0.5 mL). After stirring for 1.5 h at 0° C., the mixture was poured into ice. A precipitate formed, and it was collected by filtration. The filtrate was extracted with ether, and the organic phase was dried over magnesium sulfate, filtered, and concentrated to sticky yellow syrup. The solid and the syrup were combined, and to the resulting residue was added concentrated hydrochloric acid (30 mL). This mixture was heated to 120° C. for 1.25 h. It was then cooled to rt and subsequently poured onto ice. The aqueous solution was extracted with ethyl acetate. The organics were washed with saturated sodium bicarbonate, dried over magnesium sulfate, filtered, and concentrated. The residue was purified by flash chromatography (80% hexanes:20% ethyl acetate) to provide the desired 6-chloro-3,4-difluoro-2-nitroaniline (3.30 g, 15.8 mmol, 69% yield). 1H NMR (400 MHz, CDCl3): 7.43 (dd, 1H), 5.86 (br s, 2H); GCMS for C6H3ClF2N2O2: 208 (M+).

reactant | N-(2-chloro-4,5-difluorophenyl)acetamide | 22.8 mmol, 4.69 g | ClC1=C(C=C(C(=C1)F)F)NC(C)=O | C8H6ClF2NO
reactant | nitric acid | 2 mL | [N+](=O)(O)[O-] | HNO3
solvent | acetic acid | 4.5 mL | C(C)(=O)O | C2H4O2
solvent | sulfuric acid | 15 ml | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | 0.5 mL | C(C)(=O)O | C2H4O2
product | 6-chloro-3,4-difluoro-2-nitroaniline | 15.8 mmol, 3.30 g, 69% yield | ClC1=CC(=C(C(=C1N)[N+](=O)[O-])F)F | C6H3ClF2N2O2
